US05824691
The mixture of methyl 5-acetyl-3-pyridinecarboxylate (3.0 g) and N,N-dimethylformamide dimethyl acetal (6.7 ml) in tetrahydrofuran (30 ml) was heated under reflux for 6 hours. To the mixture was added a mixture of ethyl acetate and tetrahydrofuran, and the mixture was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was triturated with diisopropyl ether to give methyl 5-(3-dimethylamino-1-oxo-2-propenyl)-3-pyridinecarboxylate (1.88 g).

reactant | methyl 5-acetyl-3-pyridinecarboxylate | 3.0 g | C(C)(=O)C=1C=C(C=NC1)C(=O)OC | C9H9NO3
reactant | N,N-dimethylformamide dimethyl acetal | 6.7 ml | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl 5-(3-dimethylamino-1-oxo-2-propenyl)-3-pyridinecarboxylate | 1.88 g | CN(C=CC(=O)C=1C=C(C=NC1)C(=O)OC)C | C12H14N2O3
